US06525070B2
Step 1: 4-(3,4-dichloro-phenylsulfanyl)-piperidine-1-carboxylic acid tert-butyl ester
4-Methanesulfonyloxy-piperidine-1-carboxylic acid tert-butyl ester (11.18 g) and 3,4-dichlorothiophenol (6.15 ml) were stirred together in acetonitrile (200 ml) and potassium carbonate (8.86 g) was added. The mixture was heated at reflux for 18 hours after which water was added and the resulting mixture extracted with dichloromethane. The organic extracts were combined, washed with water, dried (MgSO4) and evaporated to give the sub-title compound (14.58 g).

reactant | 4-Methanesulfonyloxy-piperidine-1-carboxylic acid tert-butyl ester | 11.18 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OS(=O)(=O)C | C11H21NO5S
reactant | 3,4-dichlorothiophenol | 6.15 ml | ClC=1C=C(C=CC1Cl)S | C6H4Cl2S
reactant | potassium carbonate | 8.86 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 4-(3,4-dichloro-phenylsulfanyl)-piperidine-1-carboxylic acid tert-butyl ester | 14.58 g | C(C)(C)(C)OC(=O)N1CCC(CC1)SC1=CC(=C(C=C1)Cl)Cl | C16H21Cl2NO2S
